US07456176B2
Synthesis of [7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-[4-(3-pyrrolidin-1-yl-propane-1-sulfonyl)-phenyl]-amine
In a dry 25 mL round bottom flask, 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (0.0361 g, 0.122 mmol, 1 equiv), 1-[3-(4-bromo-benzenesulfonyl)-propyl]-pyrrolidine (0.061 g, 0.184 mmol, 1.5 equiv), cesium carbonate (0.120 g, 0.367 mmol, 3 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene (0.014 g, 0.0244 mmol, 0.2 equiv) and tris(dibenzylideneacetone)dipalladium (0.012 g, 0.0122 mmol, 0.1 equiv) were combined. The reactants were flushed with argon, diluted with dioxane (6 mL) and outfitted with reflux condenser. The reaction was heated to reflux for 18 hours, filtered hot, diluted with ethyl acetate and washed with brine. The brine layer was back extracted once with fresh ethyl acetate. The organic phases were combined and dried over sodium sulfate (Na2SO4). Filtration followed by evaporation provided crude product, which was dissolved in minimum amount of DCM and precipitated out with excess hexanes. Solids were filtered off and dried to yield a yellow powder (0.06 g, 91% yield).

reactant | 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 0.122 mmol, 0.0361 g, 1 equiv | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C15H13ClN4O
reactant | 1-[3-(4-bromo-benzenesulfonyl)-propyl]-pyrrolidine | 0.184 mmol, 0.061 g, 1.5 equiv | BrC1=CC=C(C=C1)S(=O)(=O)CCCN1CCCC1 | C13H18BrNO2S
reactant | cesium carbonate | 0.367 mmol, 0.120 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene | 0.0244 mmol, 0.014 g, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0122 mmol, 0.012 g, 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-[4-(3-pyrrolidin-1-yl-propane-1-sulfonyl)-phenyl]-amine | 0.06 g, 91% yield | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)CCCN2CCCC2)C(=C1)C | C28H30ClN5O3S
